US04053312
B. 8-Hexadecanesulfonamido-1-(p-methoxyphenylazo)-2-naphthol
To a stirred mixture of 89.5 g (0.20 mole) 8-hexadecanesulfonamido-2-naphthol, 37 g sodium hydroxide, 1800 ml methanol, and 1200 ml tetrahydrofuran at 0° was added a diazonium salt solution prepared from 24.6 g (0.20 mole) p-anisidine dissolved in 360 ml water containing 60 ml concentrated hydrochloric acid and a solution of 13.8 g (0.20 mole) sodium nitrite in 240 ml water. The addition required 15 min., and the mixture was stirred at 0° for 0.5 hr. and at room temperature for 0.5 hr. longer before being poured into 6 liters of water containing 250 ml acetic acid. There was obtained 107.7 g of product.

reactant | 8-hexadecanesulfonamido-2-naphthol | 0.20 mole, 89.5 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)NC=1C=CC=C2C=CC(=CC12)O | C26H41NO3S
reactant | sodium hydroxide | 37 g | [OH-].[Na+]
reactant | p-anisidine | 0.20 mole, 24.6 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium nitrite | 0.20 mole, 13.8 g | N(=O)[O-].[Na+]
solvent | water | 360 ml | O | H2O
solvent | water | 240 ml | O | H2O
solvent | water | 6 liters | O | H2O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
solvent | methanol | 1800 ml | CO | CH4O
product | 8-Hexadecanesulfonamido-1-(p-methoxyphenylazo)-2-naphthol | 107.7 g | C(CCCCCCCCCCCCCCC)S(=O)(=O)NC=1C=CC=C2C=CC(=C(C12)N=NC1=CC=C(C=C1)OC)O | C33H47N3O4S
